US07842688B2
b) 3-(1H-Imidazol-4-yl)phenol
A solution of 0.170 g of 3-(1-trityl-1H-imidazol-4-yl)phenol, 4.5 ml of methanol, 1.5 ml of chloroform and 1.5 ml of 2N HCl is stirred at 55° C. for 2 hours. After cooling, the reaction mixture is admixed with 35 ml of aqueous saturated sodium hydrogencarbonate solution and extracted twice with 75 ml of dichloromethane. The combined organic phases are washed with 35 ml of brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a white solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.14 (200:10:1 dichloromethane-methanol-conc. ammonia); Rt=2.08.

reactant | 3-(1-trityl-1H-imidazol-4-yl)phenol | 0.170 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=1C=C(C=CC1)O | C28H22N2O
reactant | methanol | 4.5 ml | CO | CH4O
reactant | HCl | 2N, 1.5 ml | Cl | ClH
reactant | sodium hydrogencarbonate | 35 ml | C(O)([O-])=O.[Na+]
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(1H-Imidazol-4-yl)phenol | N1C=NC(=C1)C=1C=C(C=CC1)O | C9H8N2O
